US04101659
B. N-(4-Chlorobenzhydryl)thiourea
A solution of 4-chlorobenzhydryl isothiocyanate [5.2g (0.02M)] in 50 mls of dry ether at 0° C is treated with NH3 (anhyd.) for 1/2 hour while maintaining a temperature of 0° C with stirring. Stirring is continued an additional 1.5 hours at 9° to 10° C. during which time a white solid appears. The crude thiourea is filtered and washed thoroughly with ether; mp 173°-5° C. The filtrate is concentrated in vacuo to yield additional product. The combined crops of N-(4-chlorobenzhydryl) thiourea are used in the next step without further purification.

reactant | 4-chlorobenzhydryl isothiocyanate | 0.02M, 5.2g | ClC1=CC=C(C(C2=CC=CC=C2)N=C=S)C=C1 | C14H10ClNS
reactant | NH3 | N | H3N
solvent | ether | 50 mls | CCOCC | C4H10O
product | N-(4-Chlorobenzhydryl)thiourea | ClC1=CC=C(C(C2=CC=CC=C2)NC(=S)N)C=C1 | C14H13ClN2S
